US07109226B2
Synthesis of N-3-(4-Methoxyphenoxy)propyl-3-tert-butyldimethylsilyloxybenzylamine
3-tert-Butyldimethylsilyloxybenzaldehyde (1.5 g, 6.34 mmol) was dissolved in 1,2-dichloroethane (10.0 mL). Subsequently, 3-(4-methoxyphenoxy)propylamine (1.5 g, 8.25 mmol) was added thereto, and the resultant mixture was stirred for 20 minutes. At room temperature, sodium triacetoxyborohydride (1.75 g, 8.25 mmol) and acetic acid (495 mg, 8.25 mmol) were added thereto, and the mixture was stirred overnight. A saturated aqueous sodium hydrogencarbonate solution was added thereto. The reaction mixture was extracted with chloroform, and the organic layer was washed with brine. The resultant mixture was subjected to drying over anhydrous sodium sulfate, concentration under reduced pressure, and purification by silica gel chromatography (chloroform/methanol=50/1), whereby the target compound was obtained (1.9 g, 78%).

reactant | 3-tert-Butyldimethylsilyloxybenzaldehyde | 6.34 mmol, 1.5 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=O)C=CC1 | C13H20O2Si
reactant | 3-(4-methoxyphenoxy)propylamine | 8.25 mmol, 1.5 g | COC1=CC=C(OCCCN)C=C1 | C10H15NO2
reactant | sodium triacetoxyborohydride | 8.25 mmol, 1.75 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 8.25 mmol, 495 mg | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 10.0 mL | ClCCCl | C2H4Cl2
product | N-3-(4-Methoxyphenoxy)propyl-3-tert-butyldimethylsilyloxybenzylamine | COC1=CC=C(OCCCNCC2=CC(=CC=C2)O[Si](C)(C)C(C)(C)C)C=C1 | C23H35NO3Si
